US07642270B2
8-Cyclopentyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (45 mg, 0.12 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (23 mg, 0.12 mmol) were combined in i-PrOH (1 mL) and heated to 80° C. After 14 h, the solution was concentrated and purified by preparative HPLC (30 mL/min 0-100% H2O/MeCN gradient over 10 min) to provide 19.8 mg of 8-cyclopentyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. The ester was dissolved in MeOH (2 mL) and cooled to −78° C. in a high pressure vessel. Ammonia was bubbled into the solution for 1 min and the vessel was sealed and allowed to warm to rt. After 14 h, the solution was cooled to −78° C., the vessel was opened and the solution was allowed to warm to rt. The solution was concentrated to provide 5.4 mg of 8-cyclopentyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid amide. 1H-NMR (400 MHz, CDCl3:) δ ppm 9.30 (s, 1H), 8.51 (s, 1H), 8.34 (s, 1H), 7.53 (d, 2H, J=8.9 Hz), 6.94 (d, 2H, J=9.0 Hz), 5.23-5.52 (m, 4H), 4.38 (q, 2H, J=7.1 Hz), 3.34-3.36 (m, 4H), 3.00-3.01 (m, 4H), 2.60 (s, 3H), 2.21-2.28 (m, 2H), 1.80-1.93 (m, 6H), 1.40 (t, 3H, J=7.1 Hz). Mass Spectrum (LCMS, ESI pos.) Calcd. For C26H32N6O3: 476.25, found: (M+H) 477.3.

reactant | 8-Cyclopentyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.12 mmol, 45 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCC1)=O | C16H19N3O5S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.12 mmol, 23 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | i-PrOH | 1 mL | CC(C)O | C3H8O
product | 8-cyclopentyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 19.8 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C1CCCC1)=O | C26H32N6O3
